US07601844B2
Step 1: tert-Butyl (R)-1-((S)-4-(4-Chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-1-oxobutan-2-ylcarbamate
(S)-4-(4-chlorophenyl)-3,3-dimethylpiperidin-4-ol (100 mg, 0.42 mmol), (R)-2-(tert-butoxycarbonylamino)butanoic acid (102 mg, 0.50 mmol), HOBT (68 mg, 0.5 mmol), EDC (155 mg, 1 mmol), DIPEA (129 mg, 1 mmol), and chloroform (2 mL) was stirred overnight at rt. The reaction mixture was then partitioned between methylene chloride and saturated sodium bicarbonate solution, the layers were separated and the organic extracts were dried over magnesium sulfate, filtered, and concentrated to yield the product, which was used in next step without further purification.

reactant | (S)-4-(4-chlorophenyl)-3,3-dimethylpiperidin-4-ol | 0.42 mmol, 100 mg | ClC1=CC=C(C=C1)[C@@]1(C(CNCC1)(C)C)O | C13H18ClNO
reactant | (R)-2-(tert-butoxycarbonylamino)butanoic acid | 0.50 mmol, 102 mg | C(C)(C)(C)OC(=O)N[C@@H](C(=O)O)CC | C9H17NO4
reactant | HOBT | 0.5 mmol, 68 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 1 mmol, 155 mg
reactant | DIPEA | 1 mmol, 129 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | chloroform | 2 mL | C(Cl)(Cl)Cl | CHCl3
product | tert-Butyl (R)-1-((S)-4-(4-Chlorophenyl)-4-hydroxy-3,3-dimethylpiperidin-1-yl)-1-oxobutan-2-ylcarbamate | ClC1=CC=C(C=C1)[C@@]1(C(CN(CC1)C([C@@H](CC)NC(OC(C)(C)C)=O)=O)(C)C)O | C22H33ClN2O4
